US05596002
4-Bromo-7-chloro-quinoline
83.9 g of 7-chloro-4-hydroxyquinoline were added portionwise at 60° to 150 g of phosphorus oxybromide and the mixture was thereafter heated to 140° C. for 6 hours. After cooling, the mixture was treated with 3 l of ice-water and extracted with 2×1.5 l of dichloromethane. After evaporation of the solvent and crystallization from 1.3 l of hexane, 34 g of product were obtained as colourless crystals, m.p.: 102°-103° C.

reactant | 7-chloro-4-hydroxyquinoline | 83.9 g | ClC1=CC=C2C(=CC=NC2=C1)O | C9H6ClNO
reactant | phosphorus oxybromide | P(=O)(Br)(Br)Br | Br3OP
product | 4-Bromo-7-chloro-quinoline | 34 g | BrC1=CC=NC2=CC(=CC=C12)Cl | C9H5BrClN
